US04315019
dl α-(3-trifluoromethyl phenyl) (trifluoroethyl) amine
2.5 g (3-trifluoromethyl phenyl) trifluoromethyl Ketoxime are suspended in 40 ml isopropyl ether and to this suspension 4 g lithium aluminum hydride are added. The mixture is heated to reflux for 3 hours then cooled. The excess of reagent is destroyed by cautious addition of an aqueous solution of tartaric acid. The mixture is made basic by adding sodium hydroxide and the ethereal phase is separated. The aqueous phase is further extracted with isopropyl ether; the organic solutions are united, washed with water, dried and evaporated off under reduced pressure.

reactant | (3-trifluoromethyl phenyl) trifluoromethyl Ketoxime | 2.5 g | FC(F)(F)C(=NO)C1=CC(=CC=C1)C(F)(F)F | C9H5F6NO
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | isopropyl ether | 40 ml | C(C)(C)OC(C)C | C6H14O
product | α-(3-trifluoromethyl phenyl) (trifluoroethyl) amine | FC(C=1C=C(C=CC1)C(C(F)(F)F)N)(F)F | C9H7F6N
